US04855295
5,6,7,8-Tetrahydro-5-ethoxymethyl-4-methoxymethyl-betacarboline-3-carboxylic acid ethyl ester (0.51 g) is refluxed in ethanol (25 ml) with 1 normal sodium hydroxide solution (4.3 ml) for 3 hours. Then the solution is mixed with 5.3 ml of IN hydrochloric acid and evaporated. The residue is boiled out with ethanol, 0.49 g of 5,6,7,8-tetrahydro-5-ethoxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid is obtained from the ethanol extract after treatment with carbon by evaporation. Melting point, 250° C. (decomposition).

reactant | 5,6,7,8-Tetrahydro-5-ethoxymethyl-4-methoxymethyl-betacarboline-3-carboxylic acid ethyl ester | 0.51 g | C(C)OC(=O)C=1N=CC=2NC=3CCCC(C3C2C1COC)COCC | C19H26N2O4
reactant | sodium hydroxide | 4.3 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
product | 5,6,7,8-tetrahydro-5-ethoxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid | 0.49 g | C(C)OCC1C=2C=3C(=C(N=CC3NC2CCC1)C(=O)O)COC | C17H22N2O4
